### PR TITLE
Make InBounds predicate decidable

### PR DESCRIPTION
**Pull request by math-fehr**

### CODE REVIEW

**Review by luisacicolini — APPROVED** [review]

File: Veir/IR/Basic.lean [hunk 1]
```diff
@@ -1888,6 +1936,9 @@ variable {ctx : IRContext OpInfo}
 @[simp, grind =, grind =_] theorem iff_value (ptr : ValuePtr) : (value ptr).InBounds ctx ↔ ptr.InBounds ctx := by grind [InBounds]
 @[simp, grind =, grind =_] theorem iff_opOperandPtr (ptr : OpOperandPtrPtr) : (opOperandPtr ptr).InBounds ctx ↔ ptr.InBounds ctx := by grind [InBounds]
 
+instance : Decidable (InBounds ptr ctx) := by
```
Comment (ineol) [inline Veir/IR/Basic.lean:1950]: non terminal simp.

File: Veir/IR/Basic.lean [hunk 2]
```diff
@@ -289,6 +289,11 @@ namespace OperationPtr
 def InBounds (op : OperationPtr) (ctx : IRContext OpInfo) : Prop :=
   op ∈ ctx.operations
 
+def inBounds_def : InBounds op ctx ↔ op ∈ ctx.operations := by rfl
+
+instance : Decidable (InBounds op ctx) := by
+  simp [inBounds_def]; infer_instance
```
Comment (ineol) [inline Veir/IR/Basic.lean]:
```suggestion
@[no_expose]
instance : Decidable (InBounds op ctx) := by
  unfold InBounds; infer_instance
```

it feels a bit better, because I don't think it's a good idea to use `simp` to define a runtime definition. The `@[no_expose]` is required so that the body of the instance be in the private scope and has access to the definition of `InBounds`

File: Veir/IR/Basic.lean (hunk 1 above)
Comment (math-fehr) [reply Veir/IR/Basic.lean:1950]: What's the best way to do this?
I don't really want to have to list the 10 different simp lemmas that this is using (the ones right on top).
Is it fine if I use `try infer_instance` at the end?

Comment (math-fehr) [reply Veir/IR/Basic.lean:1950]: Is this okay now?

File: Veir/IR/Basic.lean (hunk 2 above)
Comment (math-fehr) [reply Veir/IR/Basic.lean]: Yeah I used it for all instances, so should be good now

File: Veir/IR/Basic.lean [hunk 3]
```diff
@@ -291,8 +291,9 @@ def InBounds (op : OperationPtr) (ctx : IRContext OpInfo) : Prop :=
 
 def inBounds_def : InBounds op ctx ↔ op ∈ ctx.operations := by rfl
 
+@[no_expose]
 instance : Decidable (InBounds op ctx) := by
-  simp [inBounds_def]; infer_instance
+  simp only [inBounds_def]; infer_instance
```
Comment (ineol) [inline Veir/IR/Basic.lean]: you can just `unfold` instead of `simp` with the `no_expose`

Comment (math-fehr) [reply Veir/IR/Basic.lean]: Should be done now!
